US07872014B2
Methyl 2-{[2-(methyloxy)ethyl]oxy}-3-[(phenylcarbonyl)oxy]benzoate (8.0 g, 24.2 mmol) was added drop wise over 15 minutes to a mixture of 90% nitric acid (15 mL) and concentrated sulfuric acid (3 mL) at −5° C. The resulting mixture was stirred for an additional 15 minutes then it was poured into a mixture of ice (200 g) and dichloromethane (200 mL). The organic portion was separated, washed with saturated sodium bicarbonate solution, brine (100 mL each) dried over sodium sulfate, filtered and concentrated to give methyl 2-{[2-(methyloxy)ethyl]oxy}-5-nitro-3-[(phenylcarbonyl)oxy]benzoate (8.1 g, 21.6 mmol, 89% yield). 1H NMR (400 MHz, CDCl3): 8.63-8.62 (d, 1H), 8.27-8.26 (d, 1H), 8.21-8.19 (m, 2H), 7.69-7.67 (d, d, 1H), 7.55-7.51 (d, d, 2H), 4.26-4.24 (m, 2H), 3.96 (s, 3H), 3.58-3.56 (m, 2H), 3.12 (s, 3H).

reactant | Methyl 2-{[2-(methyloxy)ethyl]oxy}-3-[(phenylcarbonyl)oxy]benzoate | 24.2 mmol, 8.0 g | COCCOC1=C(C(=O)OC)C=CC=C1OC(=O)C1=CC=CC=C1 | C18H18O6
reactant | nitric acid | 15 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | methyl 2-{[2-(methyloxy)ethyl]oxy}-5-nitro-3-[(phenylcarbonyl)oxy]benzoate | 21.6 mmol, 8.1 g, 89% yield | COCCOC1=C(C(=O)OC)C=C(C=C1OC(=O)C1=CC=CC=C1)[N+](=O)[O-] | C18H17NO8
